US07745663B2
Namely, (E)-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-[(2-methylsulfanyl-ethyoxyimino)-methyl]-benzamide (104.8 mg, 0.184 mmol) was dissolved in methylene chloride (anhydrous, 10 mL). Borane-pyridine complex (140 μL, 1.38 mmol) and then dichloroacetic acid (115 μL, 1.38 mmol) were added thereto with cooling the reaction vessel in an ice-bath under a nitrogen atmosphere. The ice-bath was removed, and the mixture was stirred at room temperature for 17 hours. After completion of the reaction, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed sequentially with water and saturated brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. The resultant yellow residue was purified by silica gel column chromatography (Mega Bond Elut, Varian, 5% methanol/methylene chloride as an eluent). The resultant fraction was concentrated under reduced pressure and the oily residue was triturated with 5% ethyl acetate/hexane to give 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-[(2-methylsulfanyl-ethoxyamino)-methyl]-benzamide (110 mg) as a white solid.

reactant | (E)-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-[(2-methylsulfanyl-ethyoxyimino)-methyl]-benzamide | 0.184 mmol, 104.8 mg | FC=1C(=C(C(=O)NOCCO)C=C(C1F)/C=N/OCCSC)NC1=C(C=C(C=C1)I)F | C19H19F3IN3O4S
reactant | dichloroacetic acid | 1.38 mmol, 115 μL | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-[(2-methylsulfanyl-ethoxyamino)-methyl]-benzamide | 110 mg | FC=1C(=C(C(=O)NOCCO)C=C(C1F)CNOCCSC)NC1=C(C=C(C=C1)I)F | C19H21F3IN3O4S
